US08685980B2
Following General Procedure E, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (50 mg, 0.115 mmol) and 2,2-dimethyloxirane (72 mg, 0.805 mmol) gave 7-cyclopentyl-2-{5-[4-(2-hydroxy-2-methyl-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (17 mg, 29%). MS (ESI) m/z 507.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.115 mmol, 50 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | 2,2-dimethyloxirane | 0.805 mmol, 72 mg | CC1(OC1)C | C4H8O
product | 7-cyclopentyl-2-{5-[4-(2-hydroxy-2-methyl-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 17 mg, 29% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)CC(C)(C)O)N1C1CCCC1)C | C27H38N8O2
